US07476399B2
4-Methyl-2-(3-thiophen-2-yl-acryloylamino)-pentanoic acid methyl ester
Prepared in a similar manner as described in example 4 from 3-thiophen-2-yl-acrylic acid and D-leucine methyl ester. MS (M+H, 282.2).

reactant | 3-thiophen-2-yl-acrylic acid | S1C(=CC=C1)C=CC(=O)O | C7H6O2S
reactant | D-leucine methyl ester | COC([C@H](N)CC(C)C)=O | C7H15NO2
product | 4-Methyl-2-(3-thiophen-2-yl-acryloylamino)-pentanoic acid methyl ester | COC(C(CC(C)C)NC(C=CC=1SC=CC1)=O)=O | C14H19NO3S
